US09078871B2
To a solution of (R)-propane-1,2-diol (2.82 g, 37.1 mmol) and trityl chloride (10.5 g, 37.7 mmol) in DCM (100 mL) at 0° C., dimethylaminopyridine (53 mg, 0.43 mmol) was added followed by dropwise addition of triethylamine (13.0 mL, 93.3 mmol). The solution was allowed to warm to room temperature, stirred overnight, and re-cooled to 0° C. Methanesulfonyl chloride (3.2 mL, 41.2 mmol) was added to the reaction, and the mixture was stirred for 4 h at 0° C. The reaction was quenched (50 mL 1N HCl), and the layers were separated. The organic phase was washed (50 mL 1N HCl and 50 mL brine), dried (Na2SO4) and concentrated under reduced pressure. The crude material was purified on a silica gel column to give (R)-1-(trityloxy)propan-2-yl methanesulfonate (13.1 g) as a thick oil which solidified over time. 1H NMR (DMSO-d6): δ 7.50-7.20 (m, 15H), 4.85 (m, 1H), 3.34 (s, 3H), 3.12 (m, 2H), 1.28 (d, 3H).

reactant | (R)-propane-1,2-diol | 37.1 mmol, 2.82 g | C([C@@H](C)O)O | C3H8O2
reactant | trityl chloride | 37.7 mmol, 10.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 93.3 mmol, 13.0 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 41.2 mmol, 3.2 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | dimethylaminopyridine | 0.43 mmol, 53 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | (R)-1-(trityloxy)propan-2-yl methanesulfonate | 13.1 g | CS(=O)(=O)O[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H24O4S
